US06211215B1
In substantially the same manner as in Working Example 159, 2-(2-thienyl)-5-thiazolylmethanol was chlorinated and then reacted with 1-[4-(4-hydroxyphenyl)butyl]imidazole to obtain 5-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]-2-(2-thienyl)thiazole. The yield was 86%. Recrystallization from ethyl acetate-hexane gave pale yellow prisms, mp 128-129° C.

reactant | 2-(2-thienyl)-5-thiazolylmethanol | S1C(=CC=C1)C=1SC(=CN1)CO | C8H7NOS2
reactant | 1-[4-(4-hydroxyphenyl)butyl]imidazole | OC1=CC=C(C=C1)CCCCN1C=NC=C1 | C13H16N2O
product | 5-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]-2-(2-thienyl)thiazole | yield was 86% | N1(C=NC=C1)CCCCC1=CC=C(OCC2=CN=C(S2)C=2SC=CC2)C=C1 | C21H21N3OS2
